US06897210B2
1,1′-(Azodicabonyl)dipiperidine (525 mg, 2.1 mmol) was added in portions to a mixture of 44-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (225 mg, 7.0 mmol), (prepared as described for the starting material in Example 2), tributylphosphine (420 mg, 2.11 mmol) and 42-hydroxyethyl)-1,1-dioxothiomorpholine (140 mg, 7.8 mmol) in methylene chloride (10 ml). The mixture was stirred for 18 hours, diluted with ether and the resulting precipitate was removed by filtration. The volatiles were removed from the filtrate by evaporation, and the residue was dissolved in acetone and ethereal hydrogen chloride (14 ml of a 1M solution, 14 mmol) and the precipitate was collected by filtration. The residue was purified by column chromatography eluting with methylene chloride/methanol/aqueous ammonia (150/8/1). The purified product was triturated with ether/methylene chloride collected by filtration and dried to give 4-(4-chloro-2-fluoroanilino)-7-(241,1-dioxothiomorpholino)ethoxy)6-methoxyquinazoline (120 mg, 36%).

reactant | 1,1′-(Azodicabonyl)dipiperidine | 2.1 mmol, 525 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 7-hydroxy-6-methoxyquinazoline | 7.0 mmol, 225 mg | OC1=C(C=C2C=NC=NC2=C1)OC | C9H8N2O2
reactant | tributylphosphine | 2.11 mmol, 420 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1-dioxothiomorpholine | 7.8 mmol, 140 mg | O=S1(CCNCC1)=O | C4H9NO2S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 6-methoxyquinazoline | 120 mg, 36% | COC=1C=C2C=NC=NC2=CC1 | C9H8N2O
